US05346691
A mixture of 167 g of p-nitrobenzoic acid, 204 g of 2-ethyl-1-butanol and 3.5 g of p-toluenesulfonic acid is refluxed and stirred for 2 hours, separating the formed water. After that, the alcohol excess is distilled off, then the formed product is distilled at 150° C. and 0.04 mmHg, to obtain 209 g of 2-ethylbutyl p-nitrobenzoate in form of a light yellow viscous liquid.

reactant | p-nitrobenzoic acid | 167 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | 2-ethyl-1-butanol | 204 g | C(C)C(CO)CC | C6H14O
catalyst | p-toluenesulfonic acid | 3.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-ethylbutyl p-nitrobenzoate | 209 g | [N+](=O)([O-])C1=CC=C(C(=O)OCC(CC)CC)C=C1 | C13H17NO4
